US05037186
20 g of poly(γ-benzyl L-glutamate)(molecular weight: 15000; average degree of polymerization: 69) prepared by the NCA method was dissolved in 1,2-dichloroethane. To the resulting solution were added 150 ml of n-dodecyl alcohol and 5 g of p-toluenesulfonic acid. The reaction was allowed to proceed at 60° C. for 15 hours. The reaction mixture was poured into a large amount of methanol to precipitate the formed polymer. The polymer was filtered and dried. Subsequently, the polymer was dissolved in 1,2-dichloroethane again, reprecipitated with methanol, filtered and dried to obtain a purified γ-benzyl L-glutamate/γ-dodecyl L-glutamate copolymer. The ratio of the benzyl ester to the dodecyl ester in the copolymer was determined by NMR and was found to be 61:39.

reactant | poly(γ-benzyl L-glutamate) | 20 g | C1=CC=C(C=C1)COC(=O)CCC(C(=O)O)N | C12H15NO4
reactant | n-dodecyl alcohol | 150 ml | C(CCCCCCCCCCC)O | C12H26O
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | CO | CH4O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | γ-benzyl L-glutamate γ-dodecyl L-glutamate | C1=CC=C(C=C1)COC(=O)CC[C@@H](C(=O)O)N.N[C@@H](CCC(=O)[O-])C(=O)OC(CC)CCCCCCCCC | InChI=1S/C17H33NO4.C12H15NO4/c1-3-5-6-7-8-9-10-11-14(4-2)22-17(21)15(18)12-13-16(19)20;13-10(12(15)16)6-7-11(14)17-8-9-4-2-1-3-5-9/h14-15H,3-13,18H2,1-2H3,(H,19,20);1-5,10H,6-8,13H2,(H,15,16)/p-1/t14?,15-;10-/m00/s1
